US09079835B2
To a flamed-dried 20 mL vial fitted with a screw-cap septa was added Dimethyl 3,4-bis(8-hydroxyoctyl)hex-3-enedioate (1 equiv, 0.642 mmol, 275 mg), CH2Cl2 (6 mL), and Et3N (4 equiv, 2.57 mmol, 0.36 mL). The mixture was cooled to 0° C. and DMAP (0.1 equiv, 0.064 mmol, ˜8 mg) was added followed by the dropwise addition of MsCl (3 equiv, 1.93 mmol, 0.15 mL). The reaction was allowed to come to ambient temperature over 14 h at which time the reaction was quenched with sat. aq. NaHCO3 (10 mL). The layers were separated and the aqueous layer was extracted with CH2Cl2 (3×15 mL). The combined organic layers were washed with H2O (20 mL), dried with Na2SO4, concentrated in vacuo, and purified by flash column chromatography (45% EtOAc/Hex) to afford Dimethyl 3,4-bis(8-((methylsulfonyl)oxy)octyl)hex-3-enedioate (309 mg, 0.526 mmol, 82%) as an inseparable 2:1 mixture of isomers. TLC Rf=0.24 (45% EtOAc/Hex); 1HNMR (500 MHz): δ 4.20-4.25 (ovlp. t's, 4H), 3.68 (s, 4H), 3.66 (s, 2H), 2.13 (s, 2.7H), 3.11 (s, 1.3H), 3.02 (s, 6H), 2.07-2.17 (4H), 1.71-1.79 (4H), 1.25-1.45 (20H); 13CNMR (125 MHz): δ 172.3, 172.2, 130.7, 130.6, 70.20, 70.18, 51.8, 37.6, 37.4, 37.2, 33.2, 32.8, 31.6, 29.58, 29.55, 29.33, 29.29, 29.1, 29.00, 28.97, 28.3, 28.0, 25.4; FTIR: 2929, 2855, 1732, 1435, 1350, 1170, 972, 935, 833, 721 cm−1; HRMS-ESI: calc. for C36H48NaO10S2 (M+Na)+: 607.2587. found: 607.2570.

reactant | Dimethyl 3,4-bis(8-hydroxyoctyl)hex-3-enedioate | 0.642 mmol, 275 mg, 1 equiv | OCCCCCCCCC(CC(=O)OC)=C(CC(=O)OC)CCCCCCCCO | C24H44O6
reactant | Et3N | 2.57 mmol, 0.36 mL, 4 equiv | CCN(CC)CC | C6H15N
reactant | MsCl | 1.93 mmol, 0.15 mL, 3 equiv | CS(=O)(=O)Cl | CH3ClO2S
catalyst | DMAP | 0.064 mmol, ˜8 mg, 0.1 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | Dimethyl 3,4-bis(8-((methylsulfonyl)oxy)octyl)hex-3-enedioate | 0.526 mmol, 309 mg, 82% | CS(=O)(=O)OCCCCCCCCC(CC(=O)OC)=C(CC(=O)OC)CCCCCCCCOS(=O)(=O)C | C26H48O10S2
